US07368578B2
To a mixture of 4-{[4-(chloromethyl)-2-methoxyphenoxy]methyl}-2-(2-furyl)-5-methyl-1,3-oxazole (0.94 g), ethyl 3-hydroxy-1-(pyridin-3-ylmethyl)-1H-pyrazole-4-carboxylate (0.55 g) and N,N-dimethylformamide (20 mL) was added sodium hydride (60% in oil, 0.10 g) at room temperature. After stirring the reaction mixture at room temperature for 1 hr, the mixture was further stirred at 90° C. for 1 hr. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give ethyl 3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-(pyridin-3-ylmethyl)-1H-pyrazole-4-carboxylate as colorless crystals (0.81 g, yield 68%) from a fraction eluted with ethyl acetate-methanol (20:1, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 131-132° C.

reactant | 4-{[4-(chloromethyl)-2-methoxyphenoxy]methyl}-2-(2-furyl)-5-methyl-1,3-oxazole | 0.94 g | ClCC1=CC(=C(OCC=2N=C(OC2C)C=2OC=CC2)C=C1)OC | C17H16ClNO4
reactant | ethyl 3-hydroxy-1-(pyridin-3-ylmethyl)-1H-pyrazole-4-carboxylate | 0.55 g | OC1=NN(C=C1C(=O)OCC)CC=1C=NC=CC1 | C12H13N3O3
reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.10 g | [H-].[Na+]
solvent | Water | O | H2O
product | ethyl 3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-(pyridin-3-ylmethyl)-1H-pyrazole-4-carboxylate | 0.81 g, yield 68% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2C(=O)OCC)CC=2C=NC=CC2)C=C1)OC)C | C29H28N4O7
